US08809390B2
Preparation of (S)-Methyl 3-(4-hydroxyphenyl)-2-(octanamido)propanoate
200 ml of dichloro methane (DCM) was added to (L)-tyrosine methyl ester HCl salt (23.16 g, 0.1 mol), and 28 ml of triethyl amine (TEA, 0.2 mol) was added thereto, thereby dissolving HCl salt. The reactor was temperature-lowered to 0° C. by using an ice bath, and 16.6 ml of octanoyl chloride (0.1 mol) was slowly added, following by stirring for 3-4 hours. 200 ml of water was added to the reacted material, followed by extraction with 400 ml of ethyl acetate. Drying over sodium sulfate followed by filtering was carried out. The solvent was removed from the filtrate by rotary evaporation, followed by separation by column chromatograph using hexane and ethyl acetate (Hex:EA=2:1), thereby obtaining a white solid (30.1 g, 93.3% yield).

reactant | (L)-tyrosine methyl ester HCl salt | 0.1 mol, 23.16 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | triethyl amine | 0.2 mol, 28 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | octanoyl chloride | 0.1 mol, 16.6 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | water | 200 ml | O | H2O
solvent | dichloro methane | 200 ml | ClCCl | CH2Cl2
product | (S)-Methyl 3-(4-hydroxyphenyl)-2-(octanamido)propanoate | 30.1 g, 93.3% yield | OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(CCCCCCC)=O | C18H27NO4
